US08859553B2
Step 7. 2-(3-Iodo-4-methylphenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole
A mixture of 1-(3,4-diaminobenzyl)-4-methylpiperazine (10 mmol), 3-iodo-4-methylbenzoic acid (2.6 g, 10 mmol), EDCI (11 mmol), and HOBt (11 mmol) in dry DMF (25 mL) was stirred at ambient temperature for 24 hrs. The mixture was then evaporated in vacuo and the crude residue was dissolved in CH2Cl2 (100 mL) was washed with water (100 mL), brine (100 mL) and then dried by Na2SO4, filtered and concentrated. The residue obtained was dissolved in AcOH (30 mL) and heated at reflux for 3 hrs. The reaction mixture was evaporated in vacuo and the residue was purified by silica gel chromatography (eluent: 10% MeOH in CH2Cl2, MeOH was added 0.5% Et3N) to give a yellow solid (1.35 g, 30.3%). 1H NMR (300 MHz, CDCl3) δ: 8.50 (1H, s), 7.94-7.97 (1H, d, J=9.0 Hz), 7.53-7.56 (1H, d, J=9.0 Hz), 7.52-7.55 (1H, d, J=9.0 Hz), 7.30 (1H, s), 7.20-7.23 (1H, d, J=9.0 Hz), 3.60 (2H, s), 2.54 (8H, brs), 2.45 (3H, s), 2.32 (3H, s).

reactant | 1-(3,4-diaminobenzyl)-4-methylpiperazine | 10 mmol | NC=1C=C(CN2CCN(CC2)C)C=CC1N | C12H20N4
reactant | 3-iodo-4-methylbenzoic acid | 10 mmol, 2.6 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | EDCI | 11 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 11 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 2-(3-Iodo-4-methylphenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole | 1.35 g, 30.3% | IC=1C=C(C=CC1C)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C | C20H23IN4
